US06133258
The reaction procedure of Example 57 was followed except that 1.763 g (11.2 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 894 mg of ammonium thiocyanate, 15 ml of acetone, 1.59 g of N-propylaniline and 10 ml of acetone were used. The product was then recrystallized from ethanol to obtain 2.68 g of 2-(N-phenyl-N-propylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 11.2 mmol, 1.763 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 894 mg | [S-]C#N.[NH4+]
reactant | N-propylaniline | 1.59 g | C(CC)NC1=CC=CC=C1 | C9H13N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(N-phenyl-N-propylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.68 g | C1(=CC=CC=C1)N(CCC)C=1SC2=C(C(N1)=O)C=CC=N2 | C16H15N3OS
